US05202344
Preparation of 1,1-Dimethylethyl 3-[(2-fluorophenyl)amino]propanoate
To a solution of 2-fluoroaniline (22.06 g, 0.198 mol) and freshly distilled tert-butyl acrylate (25.145 g, 0.198 mol) in dry benzene (250 ml) was added tin tetrachloride (1 ml) and the mixture was refluxed for 60 h. The resulting suspension was filtered and the filtrate was evaporated to give a semisolid which was chromatographed on silica gel eluting with 25/75 ethyl acetate/hexane to give the title compound (5.4 g, 11%). Anal calcd for C13H18NO2F: C, 65.25; H, 7.58; N, 5.85. Found: C, 65.49; H, 7.75; N, 5.80. MS M+1 calcd for C13H18NO2F 240, found 240.

reactant | 2-fluoroaniline | 0.198 mol, 22.06 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | tert-butyl acrylate | 0.198 mol, 25.145 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | tin tetrachloride | 1 ml | [Sn](Cl)(Cl)(Cl)Cl
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 1,1-Dimethylethyl 3-[(2-fluorophenyl)amino]propanoate | 5.4 g, 11% | FC1=C(C=CC=C1)NCCC(=O)OC(C)(C)C | C13H18FNO2
